Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6][O:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10],-0.782490320636
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.59148048487
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11][H:12],4.00972138176
[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.93379023389
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][H:3].[C:4](\[H:5])([O:6][H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13],0.85415458546
[C:9]([H:10])[H:11].[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([C:4][O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-5.07936404891
[H:1][O:2][C:3]1[O:4][C:5]([H:6])([H:7])[C:8]1([H:9])[H:10]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],1.2131860589
[O:1]=[C:2]([C:3]([C:4]([H:5])[H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3](=[C:4]([H:5])[H:6])=[C:7]([H:8])[H:9].[O:1]=[C:2][C:10]([H:11])([H:12])[H:13],1.30163426925
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-0.81759747268
[C:1]=[C:2]([H:3])[O:4][O:5]>>[C:1].[C:2]([H:3])[O:4][O:5],5.7865695628100005
[H:1][O:2][C:3]([H:4])([H:5])[C:7]#[C:8][C:11]([C:6]([H:9])[H:10])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[C:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],0.0224672779795999
[H:1][C:2](=[C:3][H:4])[C:14]([C:11]([C:8]([C:5]([H:6])[H:7])([H:9])[H:10])([H:12])[H:13])([H:15])[H:16]>>[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]1([H:15])[H:16],-4.36432016785
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[O:8].[H:9],4.898805746080001
[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.94859945862
[H:1][O:2]/[C:3]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-4.787181024690001
[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C@:9]1([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2](=[O:3])[C@:9]([C:7](=[C:4]([H:5])[H:6])[H:8])([H:10])[C:11]([H:12])([H:13])[H:14],-2.30014494694
[C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.24519435061
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10],1.9786370680400005
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[C:7]([H:8])([H:9])[C:10]#[C:11][H:12].[H:1][C:2][O:3][C:4]([H:5])[H:6],3.3849376541900003
[H:1][C:2]#[C:3][C:5]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.3310325361700002
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[O:8][C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.92013304552
[H:10].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.62965466233
[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:11][H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][H:12],-1.60360595099
[C:3](=[O:4])=[C:5]([H:6])[C:7]([H:8])[H:9].[O:1]=[C:2]>>[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])=[C:7]([H:8])[H:9],-0.439975216999
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1],4.0928347718800016
[O:1]=[C:2]=[C:3][O:4][C:5]#[C:6][H:7]>>[C:2]#[C:3][O:4][C:5]#[C:6][H:7].[O:1],6.95583822173
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5],3.3667189872400005
[H:1][O:2][C:3](=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[O:12][H:13].[H:4]>>[H:1][O:2][C:3]([H:4])(/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[O:12][H:13],-1.7586242519
